US04265815
(A) (11β)-16-Chloro-9-fluoro-11-hydroxy-17-(methylthio)androsta-1,4,16-trien-3-one
To a solution of 9-fluoro-11β-hydroxy-17-(methylthio)androsta-1,4,16-trien-3-one (100 mg) in a mixture of dry dichloromethane (10 ml) and methanol (8 ml) is added a 0.31 molar solution of chlorine in dichloromethane (1.0 ml). After a few hours, the solution is poured into a dilute sodium bicarbonate solution. The product is isolated by extraction with chloroform and the chloroform solution is washed with water, dried (anhydrous MgSO4) evaporated and the residue is purified by preparative thin layer chromatography to afford the title compound (35 mg), melting point 262°-268° C.

reactant | 9-fluoro-11β-hydroxy-17-(methylthio)androsta-1,4,16-trien-3-one | 100 mg | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C([C@@]1(C)C[C@@H]2O)SC)=O)C | C20H25FO2S
reactant | methanol | 8 ml | CO | CH4O
reactant | chlorine | ClCl | Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (11β)-16-Chloro-9-fluoro-11-hydroxy-17-(methylthio)androsta-1,4,16-trien-3-one | 35 mg | ClC1=C([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O)SC | C20H24ClFO2S
